US09359352B2
Synthesis of 5-(7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2-yl)benzo[d]oxazol-2-amine (72)
A mixture of 2-chloro-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridine (C-10) (220 mg, 0.636 mmol, 1.0 eq), 2-aminobenzo[d]oxazol-5-ylboronic acid (135 mg, 0.763 mmol, 1.2 eq), Pd(PPh3)4 (73 mg, 0.06 mmol, 0.1 eq), and Na2CO3 (202 mg, 1.908 mmol, 3.0 eq) were dissolved in a mixture of 1,4-dioxane (30 mL) and water (9 mL). The resulting mixture was degassed and back-filled with argon three times and heated at reflux under an argon atmosphere for 2 h. The reaction was complete based on TLC analysis. The mixture was concentrated in vacuo and the residue was purified by column chromatography on silica gel (1:5 MeOH-DCM) to afford the desired product 5-(7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2-yl)benzo[d]oxazol-2-amine (72) (120 mg, 42.5% yield). 1H NMR (300 MHz, DMSO-d6) δ: 8.35 (s, 1H), 8.20 (d, J=8.7 Hz, 1H), 8.02 (s, 1H), 7.98 (d, J=8.4 Hz, 1H), 7.87 (d, J=6.3 Hz, 1H), 7.48 (s, 2H), 7.42 (d, J=8.1 Hz, 1H), 7.08 (s, 1H), 4.12 (m, 2H), 3.85 (m, 2H), 3.36 (m, 1H), 3.23 (m, 4H), 2.47 (m, 1H), 2.37 (m, 4H), 0.95 (d, J=6.9 Hz, 6H); ESI-MS m/z: 444.21 [M+H]+.

reactant | 2-chloro-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridine | 0.636 mmol, 220 mg, 1.0 eq | ClC1=NC2=CC(=CN=C2C=C1)N1CC(C1)N1CCN(CC1)C(C)C | C18H24ClN5
reactant | 2-aminobenzo[d]oxazol-5-ylboronic acid | 0.763 mmol, 135 mg, 1.2 eq | NC=1OC2=C(N1)C=C(C=C2)B(O)O | C7H7BN2O3
reactant | Na2CO3 | 1.908 mmol, 202 mg, 3.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 9 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.06 mmol, 73 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2-yl)benzo[d]oxazol-2-amine | 120 mg, 42.5% yield | C(C)(C)N1CCN(CC1)C1CN(C1)C1=CN=C2C=CC(=NC2=C1)C=1C=CC2=C(N=C(O2)N)C1 | C25H29N7O
